US09079866B2
5-{5-[2-(Pyrimidin-2-yloxy)phenyl]pyridin-2-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)pyrimidine and 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H14N6O, 342.12; m/z found, 343.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.97 (s, 2H), 8.70 (dd, J=2.3, 0.8, 1H), 8.48 (d, J=4.8, 2H), 8.06 (dd, J=8.3, 2.3, 1H), 7.85 (dd, J=8.3, 0.9, 1H), 7.58 (dd, J=7.6, 1.8, 1H), 7.56-7.50 (m, 1H), 7.48-7.41 (m, 1H), 7.30 (dd, J=8.0, 1.2, 1H), 7.10 (t, J=4.8, 1H).

reactant | 2-(2-bromophenoxy)pyrimidine | BrC1=C(OC2=NC=CC=N2)C=CC=C1 | C10H7BrN2O
reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
product | 5-{5-[2-(Pyrimidin-2-yloxy)phenyl]pyridin-2-yl}pyrimidin-2-amine | N1=C(N=CC=C1)OC1=C(C=CC=C1)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C19H14N6O
